US08748415B2
(S)-1-(3-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)propanoyl)pyrrolidine-2-carboxylic acid
To a solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-((S)-2-(methoxycarbonyl)pyrrolidin-1-yl)-3-oxopropylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (10 mg, 0.014 mmol) in dioxane (1 ml) and methanol (2 ml) was added 1N sodium hydroxide (0.08 ml, 0.08 mmol) and H2O (0.5 ml). The resulting mixture was stirred at rt for 45 h. The reaction mixture was neutralized with 1N HCl and concentrated in vacuo. The residue was purified by prep. HPLC to afford the title compound (8.5 mg, 85%). MS: m/e 713.5 (MH+), 1.68 min (method 2). 1H NMR (400 MHz, MeOD) δ ppm 0.95 (s, 3H) 0.97 (s, 3H) 1.04 (s, 3H) 1.08 (s, 3H) 1.18 (s, 3H) 1.73 (s, 3H) 0.87-1.86 (m, 20H) 1.99-2.10 (m, 4H) 2.15 (dd, J=17.32, 6.53 Hz, 1H) 2.24-2.33 (m, 1H) 2.52 (td, J=9.60, 4.14 Hz, 1H) 2.83-2.92 (m, 3H) 3.24-3.28 (m, 1H) 3.38 (t, J=6.15 Hz, 2H) 3.52-3.68 (m, 2H) 4.48 (dd, J=8.41, 3.39 Hz, 1H) 4.64 (s, 1H) 4.76 (d, J=1.76 Hz, 1H) 5.30 (dd, J=6.15, 1.63 Hz, 1H) 7.21 (d, J=8.53 Hz, 2H) 7.91 (d, J=8.28 Hz, 2H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-((S)-2-(methoxycarbonyl)pyrrolidin-1-yl)-3-oxopropylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.014 mmol, 10 mg | COC(=O)[C@H]1N(CCC1)C(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O | C46H66N2O5
reactant | sodium hydroxide | 0.08 mmol, 1N, 0.08 ml | [OH-].[Na+]
reactant | H2O | 0.5 ml | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | (S)-1-(3-(((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methylamino)propanoyl)pyrrolidine-2-carboxylic acid | 8.5 mg, 85% | C(=O)(O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CNCCC(=O)N5[C@@H](CCC5)C(=O)O)C)C)(C)C | C45H64N2O5
